US07847101B2
Synthesis of 5-cyclopropyl-4-(5-fluoro-6-methoxy-benzothiazol-2-yl)-2H-pyrazol-3-ylamine (597-65)
To a 10 mL reaction vessel containing (5-fluoro-6-methoxybenzothiazol-2-yl) acetonitrile (100 mg, 0.45 mmol) in 4 mL of anhydrous dichloromethane were added cyclopropane carbonyl chloride (21 μL, 0.231 mmol), 1.35 equivalents of triethylamine (85 μL) and a catalytic amount of DMAP (10 mg). The reaction was agitated at room temperature for approximately 3 hrs. At this point the solvent was evaporated and CCl4 (4 mL), 2.5 equivalents of polystyrene resin bound triphenylphosphine (725 mg, 1.55 mmol/g), and triethylamine (85 μL) were added. After agitation at 65° C. for a minimum of 3 hrs, the reaction mixture was concentrated. Ethanol (4 mL) and hydrazine monohydrate (40 μL, 1.8 equivalents) were then added and the mixture was refluxed for approximately 6 hrs. Several drops of concentrated HCl were then added to ensure complete cyclization of the pyrazole ring. After completion of the reaction, the solids were removed by filtration and the resin was washed three times with 10% methanol in dichloromethane. The filtrate was then concentrated and purified by flash column chromatography eluting with CH2Cl2:MeOH=50:1 to yield 40 mg (29%) of the title compound as a cream coloured solid. MS (m/z, ES+): 305.1 (M+1, 100%)

reactant | (5-fluoro-6-methoxybenzothiazol-2-yl) acetonitrile | 0.45 mmol, 100 mg | FC=1C(=CC2=C(N=C(S2)CC#N)C1)OC | C10H7FN2OS
reactant | cyclopropane carbonyl chloride | 0.231 mmol, 21 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | triphenylphosphine | 725 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazine monohydrate | 40 μL, 1.8 equivalents | O.NN
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | HCl | Several drops | Cl | ClH
solvent | Ethanol | 4 mL | C(C)O | C2H6O
solvent | triethylamine | 85 μL | C(C)N(CC)CC | C6H15N
solvent | CCl4 | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | triethylamine | 85 μL, 1.35 equivalents | C(C)N(CC)CC | C6H15N
product | 5-cyclopropyl-4-(5-fluoro-6-methoxy-benzothiazol-2-yl)-2H-pyrazol-3-ylamine | 40 mg, 29% | C1(CC1)C=1C(=C(NN1)N)C=1SC2=C(N1)C=C(C(=C2)OC)F | C14H13FN4OS
